US06949552B2
20.0 g of 1-t-Butoxycarbonyl-4-[carboxy-(4-fluorophenyl)methyl]-4-hydroxypiperidine was suspended in 40 ml of chloroform, and 40 ml of conc. sulfuric acid was added dropwise with ice-cooling. The reaction solution was refluxed with heating for 3 hours and, after ice-cooling, 250 ml of 4M sodium hydroxide solution, 200 ml of 1,4-dioxane and 14.8 g of di-t-butyldicarbonate were added. After stirring at room temperature for 30 minutes, the reaction solution was made acidic with potassium hydrogensulfate, followed by extraction with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (Wako-gel C-200, chloroform:methanol=10:1) to give 18.0 g of 1-t-butoxycarbonyl-4-[carboxy-(4-fluorophenyl)methyl]-3,6-dihydro-2H-pyridine as an oil.

reactant | 1-t-Butoxycarbonyl-4-[carboxy-(4-fluorophenyl)methyl]-4-hydroxypiperidine | 20.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C(C1=CC=C(C=C1)F)C(=O)O | C18H24FNO5
reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 4M, 250 ml | [OH-].[Na+]
reactant | di-t-butyldicarbonate | 14.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 1-t-butoxycarbonyl-4-[carboxy-(4-fluorophenyl)methyl]-3,6-dihydro-2H-pyridine | 18.0 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C(C1=CC=C(C=C1)F)C(=O)O | C18H22FNO4
